US06268504B1
The solution of 4-(2-piperidinyl-ethoxy)benzyl alcohol in ethylene dichloride can be combined with thionyl chloride and heated until the reaction is complete. Upon cooling, the mixture can be concentrated, followed by addition of 1,2-dimethoxyethane and additional concentration. The precipitate can be collected and dried to yield intermediate 4-(2-piperidinylethoxy)benzylchloride hydrochloride, as shown in Scheme IX.

reactant | 4-(2-piperidinyl-ethoxy)benzyl alcohol | N1(CCCCC1)CCOC1=CC=C(CO)C=C1 | C14H21NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 4-(2-piperidinylethoxy)benzylchloride hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(CCl)C=C1 | InChI=1S/C14H20ClNO.ClH/c15-12-13-4-6-14(7-5-13)17-11-10-16-8-2-1-3-9-16;/h4-7H,1-3,8-12H2;1H
